US07557112B2
Sodium hydride and 1-benzylazepane-3-one were added to a THF solution of ethyl diethoxyphosphorylacetate under ice cooling and stirred for two hours at room temperature to give a stereoisomeric mixture of ethyl(1-benzylazepane-3-ylidene)acetate. After the obtained stereoisomeric mixture of ethyl(1-benzylazepane-3-ylidene)acetate was processed with 4M HCl-EtOAc solution, EtOH and 10% palladium carbon were added and stirred for 15 hours at room temperature under the hydrogen atmosphere to give ethyl azepane-3-ylacetate hydrochloride.

reactant | Sodium hydride | [H-].[Na+]
reactant | 1-benzylazepane-3-one | C(C1=CC=CC=C1)N1CC(CCCC1)=O | C13H17NO
reactant | ethyl diethoxyphosphorylacetate | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | ethyl(1-benzylazepane-3-ylidene)acetate | C(C)OC(C=C1CN(CCCC1)CC1=CC=CC=C1)=O | C17H23NO2
reactant | HCl EtOAc | 4M | Cl.CCOC(=O)C
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | [C].[Pd]
solvent | EtOH | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | ethyl azepane-3-ylacetate hydrochloride | Cl.N1CC(CCCC1)CC(=O)OCC | InChI=1S/C10H19NO2.ClH/c1-2-13-10(12)7-9-5-3-4-6-11-8-9;/h9,11H,2-8H2,1H3;1H
